* Schematics Netlist *



V_V1         $N_0001 0 12V
V_V2         $N_0002 0 6V
R_R1         0 $N_0003  10k  
X_U1         $N_0001 $N_0004 Sw_tOpen PARAMS: tOpen=1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         0 $N_0003  100u  
Q_Q1         $N_0003 $N_0004 $N_0002 BC557C 
D_D1         $N_0004 $N_0003 D1N4148 
