* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4148 
R_R1         $N_0004 $N_0003  10k  
D_D1         $N_0005 $N_0001 D1N4148 
C_C2         $N_0006 $N_0003  100n  
R_R2         $N_0005 $N_0004  10000  
L_L1         $N_0006 $N_0003  5.11u  
V_V2         $N_0007 0  
+PULSE 0 5 2.632u 0.0000001 0.0000001 1.754u 4.38595u
V_V1         $N_0003 0 5V
M_Q1         $N_0006 $N_0007 0 0 IRF520
C_C3         0 $N_0008  1n  
X_U1         0 $N_0001 $N_0009 $N_0003 $N_0008 $N_0001 $N_0004 $N_0003 555d
+  PARAMS: MAXFREQ=3E6
C_C1         $N_0003 0  22U  
R_R4         0 $N_0009  1MEG  
C_C4         0 $N_0001  100p  
R_R3         $N_0002 $N_0004  30000  
