* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4148 
R_R3         $N_0002 $N_0003  30k  
R_R2         $N_0004 $N_0003  10k  
R_R1         $N_0003 $N_0005  10k  
D_D1         $N_0004 $N_0001 D1N4148 
C_C2         $N_0006 $N_0005  100n  
V_V4         $N_0005 0 5V
M_Q1         $N_0006 $N_0007 0 0 IRF520
C_C4         0 $N_0001  100p  
C_C3         0 $N_0008  1n  
X_U1         0 $N_0001 $N_0007 $N_0005 $N_0008 $N_0001 $N_0003 $N_0005 555d
+  PARAMS: MAXFREQ=3E6
C_C1         $N_0005 0  22U  
R_R4         0 $N_0007  1MEG  
